2147-08-17 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -received 1 unit for not bumping hct with previous tranfusion
   -trauma consult re images
   -CT c-spine: No fracture seen in the cervical spine. Multilevel DJD in
   the cervical spine, most significant at level C5-C6, with posterior
   osteophytes impinging anteriorlly on the thecal sac. CT is not
   sensitive for intrathecal details as MRI. Questionable line through the
   right occipital bone extending in the foramen magnum ring (2:8), well
   corticated, of indeterminate age. No soft
   tissue swelling. No associated air-fluid levels.
   -put in [**Location (un) **] J until MRI c-spine
   -hips pending
   CT abd/pelvis
   1. Large pelvic dermoid or teratoma.
   2. Low density pancreatic lesion (2:57), not fully characterized on
   this study could be a pseudocyst given the evidence for chronic
   pancreatitis; however focal pancreatatis, or cystic neoplasm cannot be
   excluded. Further evaluation wth multiphase CT pancreas, or MRI can be
   done, as clinically warranted. Mild fat stranding around the pancreatic
   head and uncinate process, could suggest pancreatatis in appropriate
   clinical setting, and correlation with lipase is recommended. 3.
   Possible cystic side branches at the pancreatic tail; cannot exclude
   IPMN.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2147-8-17**] 01:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-8-17**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 76 (75 - 113) bpm
   BP: 131/83(95) {99/64(76) - 142/95(102)} mmHg
   RR: 17 (16 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,426 mL
                                                                    201 mL
   PO:
             TF:
   IVF:
                                                                  1,051 mL
                                                                    201 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,275 mL
                                                                  1,420 mL
   Urine:
                                                                  1,275 mL
                                                                  1,420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    151 mL
                                                                 -1,219 mL
   Respiratory support
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL, Pupils dilated, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Bowel sounds present, Tender: Rupper and L quadrants,
   guarding
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, multiple hematomas on back, abd, legs, and hip
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal, no
   pronator drift and downgoing toes
   Labs / Radiology
   131 K/uL
   10.9 g/dL
   117 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.0 mEq/L
   12 mg/dL
   103 mEq/L
   140 mEq/L
   32.5 %
   4.4 K/uL
        [image002.jpg]
                             [**2147-8-16**]  06:42 PM
                             [**2147-8-17**]  12:07 AM
                             [**2147-8-17**]  05:47 AM
   WBC
   3.6
   4.4
   Hct
   25.4
   28.9
   32.5
   Plt
   126
   131
   Cr
   0.6
   0.6
   Glucose
   103
   117
   Other labs: PT / PTT / INR:13.3/26.8/1.1, ALT / AST:21/59, Alk Phos / T
   Bili:86/0.8, Lactic Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:393 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.5 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan:
   55 yo F with hisotry of alcohol abuse transferred from OSH with GI
   bleed and small right frontal intraparenchymal contusion.
   .
   # GIB: Given history most likely from GI bleed with upper source most
   likely given hematemasis and melana. No history of cirrhosis but given
   alcoholism possible for her to have variceal bleed. Also question NSAID
   induced PUD. AVM possible as well. LGIB is possible but less likely.
   -appreciate GI involvement, scope in am
   - PPI drip
   -active T+S
   -q6hr hct xfuse hct <21 or hemodynamic instability
   -2 PIV
   -NPO
   -once stabilized from GIB, would pursue workup for other etiologies of
   anemia
   -trauma surgery following
   -f/u
   .
   # Trauma: Patient fell multiple times at home. Now has pinpoint
   cervical neck tenderness and multiple hematomas on legs, back, right
   hip, and abdomen concerning for more diffuse injuries. R frontal
   contusion, small inferior already found on OSH scan but will repeat.
   -repeat noncon head CT
   -appreciate neuro involvement
   -CT- non con C spine
   -CT torson non con
   -C-collar
   -plain film hip, pelvis
   -trauma consult
   .
   # Abd pain: Diffuse abd pain with guarding mostly on R upper and low
   quadrants. Most likely etiology is acute on chronic pancreatitis. No
   lab evidence to suggest cholecystits or alc hep. No fever to suggest
   infection. Given diarrhea, inflammatory vs ischemic colitis is
   possible.
   -appreciate GI involvement
   -NPO
   -trend LFTs
   -f/u lactate
   -f/u CT abd/pelvis
   -surgical(trauma) consult
   .
   # Alcoholism: Reports last drink 48hours prior to admission. Also with
   confabulating and history of unable to walk concern for Wernicke's
   encephalopathy although no eye findings. Received banana bag in ED.
   -Valium 5mg q2hr CIWA>10
   -thiamine 100mg IV daily for 5 days
   -multivitamin and folate in am
   -SW consult
   .
   # FEN: IVFs / replete lytes prn / NPO
   .
   # PPX: PPI drip, pneumoboots, holding bowel regimen
   .
   # ACCESS: 2 PIV (2OG)
   .
   # CODE: full confirmed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-8-16**] 05:40 PM
   18 Gauge - [**2147-8-16**] 05:42 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: ex-husband [**Name (NI) **] [**Telephone/Fax (1) 9157**]
   [**Name2 (NI) 156**] status: Full code
   Disposition: ICU

2147-08-18 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - trauma surgery recs: no acute trauma changes
   - neuro recs: MRI/MRA ordered
   - GI recs: EGD pending MRI/MRA
   - consulted ortho for hip fracture, nondisplaced, can weight bear.
   - overnight became more delirious with mixed signs for withdrawal. She
   clinically reponded to IV valium. Knew orientation questions, though
   was nonsensical at times.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2147-8-18**] 12:00 AM
   Diazepam (Valium) - [**2147-8-18**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-8-18**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 75 (65 - 96) bpm
   BP: 120/71(82) {105/64(46) - 133/92(97)} mmHg
   RR: 14 (11 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,743 mL
                                                                    817 mL
   PO:
             TF:
   IVF:
                                                                  1,743 mL
                                                                    817 mL
   Blood products:
   Total out:
                                                                  2,590 mL
                                                                    340 mL
   Urine:
                                                                  2,590 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -847 mL
                                                                    477 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   hospital, date but confused, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   143 K/uL
   9.4 g/dL
   74 mg/dL
   0.5 mg/dL
   25 mEq/L
   2.8 mEq/L
   11 mg/dL
   105 mEq/L
   141 mEq/L
   28.1 %
   4.2 K/uL
        [image002.jpg]
                             [**2147-8-16**]  06:42 PM
                             [**2147-8-17**]  12:07 AM
                             [**2147-8-17**]  05:47 AM
                             [**2147-8-17**]  11:46 AM
                             [**2147-8-18**]  03:03 AM
   WBC
   3.6
   4.4
   4.2
   Hct
   25.4
   28.9
   32.5
   33.9
   28.1
   Plt
   126
   131
   143
   Cr
   0.6
   0.6
   0.5
   Glucose
   103
   117
   74
   Other labs: PT / PTT / INR:13.3/26.8/1.1, ALT / AST:17/47, Alk Phos / T
   Bili:86/0.8, Lactic Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:393 IU/L,
   Ca++:7.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   No Micro Data
   [**8-16**] CT C-Spine:
   IMPRESSION:
   1. No fracture seen in the cervical spine. Multilevel degenerative
   changes
   in the cervical spine, most significant at level C5-C6 with posterior
   osteophytes impinging anteriorly on the thecal sac. CT is not sensitive
   for
   intrathecal details as MRI.
   2. Radiolucent line through the right occipital bone extending in the
   foramen
   magnum ring, with well-corticated margins, of indeterminate age. No
   associated soft tissue swelling and no associated air-fluid levels.
   Discussed with [**First Name4 (NamePattern1) 5472**] [**Last Name (NamePattern1) 9126**] at the time scan done.
   NOTE ADDED AT ATTENDING REVIEW: I agree with the above findings. Note
   that
   the occipital bone fracture crosses the midline superiorly and that it
   has the
   potential to compromise multiple dural sinuses if it is acute.
   [**8-16**] CT Chest / Abd / Pelvis
   IMPRESSION:
   1. Findings most consistent with acute on chronic pancreatitis. However
   there
   is an abrupt change in caliper of the pancreatic duct in the bosy of
   the
   pancreas and an obstructing tumor while not seen on this single phase
   study
   cannot be entirely excluded. Further evaluation should commence with
   correlation with outside studies to evaluate stability of this finding.
   Further radiologic evaluation can be attempted with multiphase pancreas
   CT
   scan, or MRI/MRCP, although follow-up multi-phase CT after resolution
   of acute
   symptoms would be most useful.
   2. Large ovarian dermoid
   Assessment and Plan
   55 yo F with history of alcohol abuse transferred from OSH with GI
   bleed and small right frontal intraparenchymal contusion, pancreatitis,
   now with altered mental status.
   # Altered Mental Status: Ddx
 toxic-metabolic, ICU delirium
   - haldol 2 mg IV / po for agitation
   - EKG in AM
   - orientation frequently
   - check UA, UCx, urine tox
   - talk to family for baseline
   - d/c morphine, start Tylenol 650 mg po q8 hours x 2 days
   - avoid mind altering meds
   # GIB: Given history most likely from GI bleed with upper source most
   likely given hematemasis and melana. No history of cirrhosis but given
   alcoholism possible for her to have variceal bleed. Also question NSAID
   induced PUD. AVM possible as well. LGIB is possible but less likely.
   - appreciate GI involvement, plan for upper endoscopy this morning
   provisionally though this is pending neck clearance.
   - PPI IV BID
   - [**Hospital1 **] Hcts
   - Transfuse Hct for less than <21 and / or hemodynamically unstability
   - 2 PIV
   - NPO
   # Trauma: Patient fell multiple times at home. Now has pinpoint
   cervical neck tenderness and multiple hematomas on legs, back, right
   hip, and abdomen concerning for more diffuse injuries. R frontal
   contusion, small inferior already found on OSH scan but will repeat.
   - Trauma surgery recs
   - f/u final hip films
   - MRI for C-spine clearance
   # Hip fracture:
   - f/u final read of Xray
   - appreciate ortho recs
   # Pancreatitis: Diffuse abd pain with guarding mostly on R upper and
   low quadrants. Most likely etiology is acute on chronic pancreatitis.
   No lab evidence to suggest cholecystits or alc hep. No fever to suggest
   infection. Given diarrhea, inflammatory vs ischemic colitis is
   possible.
   - Continue IV Fluids / normal saline.
   # Alcoholism: Reports last drink 48hours prior to admission. Also with
   confabulating and history of unable to walk concern for Wernicke's
   encephalopathy although no eye findings. Received banana bag in ED.
   - Valium 5mg q2hr CIWA>10
   - thiamine 100mg IV daily for 5 days
   - multivitamin and folate
   - SW consult
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-8-16**] 05:40 PM
   18 Gauge - [**2147-8-16**] 09:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now, ? call out

2147-08-19 07:04:00 Physician Resident Progress Note
24 Hour Events:
   - MRI head / C-spine cancelled pending behavioural improvement
   - CT head: no change from [**8-16**], hyperdense but unusual shape --> from
   CT, hyperdense focus stable, looks like blood. ? AVM.
   - GI recs: continue ppi, f/u hct, further imaging of pancreas
   - Trauma recs: check UA, stat head CT
   - Neuro recs: ordered EEG, get MRI when feasible
   - daughter stated that she has never seen her mother not drunk,
   drinking more now than before, usually oriented to place
   - started bactrim for + UA
   - d/c'ed morphine, started tylenol for pain
   - serial EKGs followed
   - around 2pm, pt agitated, violent --> needed 4 point restraints,
   posey, chemically restrained with 5 haldol, 2 ativan, needed security
   - psych recommended standing haldol, ativan
   - placed 2nd PIV courtesy of MICU [**Location (un) **] [**Location (un) 1516**]
   - lytes repleted at MN
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2147-8-18**] 02:20 PM
   Pantoprazole (Protonix) - [**2147-8-18**] 08:00 PM
   Lorazepam (Ativan) - [**2147-8-19**] 06:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-8-19**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.1
   HR: 78 (63 - 113) bpm
   BP: 102/67(75) {93/53(66) - 123/73(140)} mmHg
   RR: 17 (12 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,799 mL
                                                                    170 mL
   PO:
             TF:
   IVF:
                                                                  1,799 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                    855 mL
                                                                    270 mL
   Urine:
                                                                    855 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    944 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: 7.39////
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   hospital, date but confused, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   143 K/uL
   9.4 g/dL
   76 mg/dL
   0.5 mg/dL
   25 mEq/L
   4.1 mEq/L
   11 mg/dL
   108 mEq/L
   139 mEq/L
   30
   4.2 K/uL
        [image002.jpg]
                             [**2147-8-16**]  06:42 PM
                             [**2147-8-17**]  12:07 AM
                             [**2147-8-17**]  05:47 AM
                             [**2147-8-17**]  11:46 AM
                             [**2147-8-18**]  03:03 AM
                             [**2147-8-18**]  11:29 PM
   WBC
   3.6
   4.4
   4.2
   Hct
   25.4
   28.9
   32.5
   33.9
   28.1
   30
   Plt
   126
   131
   143
   Cr
   0.6
   0.6
   0.5
   Glucose
   103
   117
   74
   76
   Other labs: PT / PTT / INR:13.3/26.8/1.1, ALT / AST:17/47, Alk Phos / T
   Bili:86/0.8, Lactic Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:393 IU/L,
   Ca++:7.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   [**8-18**] RPR pending
   [**8-18**] Ucx pending
   [**8-18**] HEAD CT
   Wet Read: IPf FRI [**2147-8-18**] 8:09 PM
   No significant change. Slight difference in positioning in the scanner
   compared to prior scan.
   [**8-16**] Bilateral Hips XRAYS
   IMPRESSION:
   Small nondisplaced fracture at the nonweightbearing portion of the left
   greater trochanter.
   Assessment and Plan
   55 yo F with history of alcohol abuse transferred from OSH with GI
   bleed and small right frontal intraparenchymal contusion, pancreatitis,
   UTI, now with altered mental status.
   # Altered Mental Status: Ddx
 CT head unchanged, toxic-metabolic, ICU
   delirium, and head injury likely contributing. TSH, folate, B12, wnl.
   - standing haldol and ativan for 24 hrs
   - EKG  [**Hospital1 **]
   - orientation frequently
   - f/u UCx, on Bactrim for dirty UA
   - talk to family for baseline
   - d/c morphine, start Tylenol 650 mg po q8 hours x 2 days
   - avoid mind altering meds
   -per neuro wants EEG, appreciate recs
   -appreciate psych recs
   -MRI brain/c-spine
   # GIB: Given history most likely from GI bleed with upper source most
   likely given hematemasis and melana. No history of cirrhosis but given
   alcoholism possible for her to have variceal bleed. Also question NSAID
   induced PUD. AVM possible as well. LGIB is possible but less likely.
   [**Doctor First Name 1862**]-[**Doctor Last Name **] possible.
   - appreciate GI involvement, plan for upper EGD pending neck clearance.
   - PPI PO BID
   - trend daily Hcts
   - Transfuse Hct for less than <21 and / or hemodynamically unstability
   - 2 PIV
   - NPO
   # Trauma: Patient fell multiple times at home. Now has pinpoint
   cervical neck tenderness and multiple hematomas on legs, back, right
   hip, and abdomen concerning for more diffuse injuries. R frontal
   contusion, small inferior already found on OSH scan but will repeat.
   - Trauma surgery recs
   - f/u final hip films
   - MRI for C-spine clearance
   # Hip fracture:
   - f/u final read of Xray
   - appreciate ortho recs
   # Pancreatitis: Diffuse abd pain with guarding mostly on R upper and
   low quadrants. Most likely etiology is acute on chronic pancreatitis.
   No lab evidence to suggest cholecystits or alc hep. No fever to suggest
   infection. Given diarrhea, inflammatory vs ischemic colitis is
   possible.
   - Continue IV Fluids / normal saline
   -NPO
   # Alcoholism: Reports last drink 48hours prior to admission. Also with
   confabulating and history of unable to walk concern for Wernicke's
   encephalopathy although no eye findings. Received banana bag in ED.
   -on ativan standing and prn
   - ativan q2hr CIWA>10
   - thiamine 100mg IV daily for 5 days
   - multivitamin and folate
   - SW consult
   ICU Care
   Nutrition:
   Comments: NPO except meds
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-8-18**] 05:18 PM
   18 Gauge - [**2147-8-18**] 11:27 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments: Updated daughter and son
   [**Name (NI) 156**] status: Full code
   Disposition:ICU, possible transfer to floor if behavior improves

2147-08-20 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -went for MRI- no cord compression, still awaiting c collar clearance
   -psych cont on 24 hrs of standing haldol and ativan
   -no new ortho, neuro recs
   -switched to po ppi
   -pm ekg without QT prolongation
   -urine culture no growth, d/ced bactrim
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2147-8-19**] 09:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-8-19**] 09:00 AM
   Haloperidol (Haldol) - [**2147-8-19**] 11:11 AM
   Lorazepam (Ativan) - [**2147-8-19**] 03:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-8-20**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.6
   HR: 64 (59 - 105) bpm
   BP: 113/76(84) {107/52(0) - 133/85(109)} mmHg
   RR: 13 (12 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,400 mL
                                                                    126 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  1,300 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                  1,005 mL
                                                                    340 mL
   Urine:
                                                                  1,005 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    395 mL
                                                                   -215 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   210 K/uL
   9.4 g/dL
   97 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.3 mEq/L
   9 mg/dL
   107 mEq/L
   140 mEq/L
   28.2 %
   4.1 K/uL
        [image002.jpg]
                             [**2147-8-16**]  06:42 PM
                             [**2147-8-17**]  12:07 AM
                             [**2147-8-17**]  05:47 AM
                             [**2147-8-17**]  11:46 AM
                             [**2147-8-18**]  03:03 AM
                             [**2147-8-18**]  11:29 PM
                             [**2147-8-20**]  04:46 AM
   WBC
   3.6
   4.4
   4.2
   4.1
   Hct
   25.4
   28.9
   32.5
   33.9
   28.1
   30
   28.2
   Plt
   126
   131
   143
   210
   Cr
   0.6
   0.6
   0.5
   0.6
   Glucose
   103
   117
   74
   76
   97
   Other labs: PT / PTT / INR:13.3/26.8/1.1, ALT / AST:17/47, Alk Phos / T
   Bili:86/0.8, Lactic Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:393 IU/L,
   Ca++:8.8 mg/dL, Mg++:1.3 mg/dL, PO4:3.2 mg/dL
   Imaging: Head MRI:
   Small bilateral subdural effusions and a tiny occipital subdural
   hematoma at the site of patient's known fracture. Linear increased
   signal at
   the inferior right frontal lobe appears to be secondary to hemorrhagic
   contusion. Although the appearance is linear, it is not typical for
   venous
   malformation. Small bilateral subdural effusions with CSF intensities,
   left
   greater than right side, measuring maximum of 6 mm on the left. No
   significant mass effect or hydrocephalus.
   No evidence of ligamentous injury. No abnormal signal within the spinal
   cord. Degenerative changes at C5-6 and C6-7.
   Microbiology: [**2147-8-18**]  SEROLOGY/BLOOD RAPID PLASMA REAGIN
   TEST-PENDING INPATIENT
   [**2147-8-18**]  URINE URINE CULTURE-FINAL
   Assessment and Plan
   55 yo F with history of alcohol abuse transferred from OSH with GI
   bleed and small right frontal intraparenchymal contusion, pancreatitis,
   UTI, now with altered mental status.
   # Altered Mental Status: Ddx
 Improved, delirium possibly [**12-19**] head
   bleed vs alcohol withdrawal.
   Brain MRI suggestive of hemorrhagic contusion. Will await final read.
   Appreciate psych consult-liason service consultation.
   - cont Haldol 5mg BIDprn and Ativan 2mg BIDprn.
   - no e/o UTI
   -per neuro wants EEG, appreciate recs
   # Trauma: Patient fell multiple times at home. Now has pinpoint
   cervical neck tenderness and multiple hematomas on legs, back, right
   hip, and abdomen concerning for more diffuse injuries. R frontal
   contusion, hemorrhagic contusion found plus occipital fx and hip fx
   - Trauma surgery recs
   - MRI for C-spine clearance
   # GIB: No significant rebleeding. Plan remains: given history most
   likely from GI bleed with upper source most likely given hematemasis
   and melana. No history of cirrhosis but given alcoholism possible for
   her to have variceal bleed. Also question NSAID induced PUD. AVM
   possible as well. LGIB is possible but less likely. [**Doctor First Name 1862**]-[**Doctor Last Name **]
   possible.
   - appreciate GI involvement, plan for upper EGD pending neck clearance.
   - PPI PO BID
   - trend daily Hcts
   - Transfuse Hct for less than <21 and / or hemodynamically unstability
   - 2 PIV
   - NPO after midnight, clears for now
   # Greater Trochanteric fracture:
   - weight bearing as tolerated
   - appreciate ortho recs
   # Pancreatitis: Diffuse abd pain with guarding mostly on R upper and
   low quadrants. Most likely etiology is acute on chronic pancreatitis.
   Continue supportive care
   - Continue IV Fluids / normal saline
   -clear liquids
   # Alcoholism: Reports last drink 48hours prior to admission. Also with
   confabulating and history of unable to walk concern for Wernicke's
   encephalopathy although no eye findings. Received multivitamins in
   saline bag in ED.
   -cont  ativan and haldol prn
   - thiamine 100mg IV daily for 5 days, day [**3-21**]
   - multivitamin and folate
   - SW consult
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2147-8-20**] 02:31 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition: